* PEX produced on Thu Jul 23 04:48:44 PM CEST 2026 using /foss/tools/sak/sak-pex.sh with m=2 and s=1
* NGSPICE file created from sg13_lv_pmos_ring_dev_pex.ext - technology: ihp-sg13g2

.subckt sg13_lv_pmos_ring_dev_pex G B D S
X0 S G D B sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
C0 D S 0.03983f
C1 G B 0.15048f
C2 D B 0.04076f
C3 S B 0.04076f
C4 B sub 0.4281f
.ends

